US06420367B1
4-tolylboronic acid (500 mg), 2-bromofuran, and tetrakis(triphenylphosphine)palladium (177 mg) were added to the mixture of 24 ml of dimethoxyethane and 15 ml of ethanol under nitrogen atmosphere. Additionally 1N sodium carbonate (12 ml) was added to the mixture and the resulting mixture was heated at reflux for 2 h. Water was added to the mixture and the mitture was extracted with diethyl ether. The organic layer was dried and the solvent was removed under reduced pressure. The residue was purified by the use of silica gel column chromatography to give 438 mg of 2-(4-tolyl)furan.

reactant | 4-tolylboronic acid | 500 mg | C1(=CC=C(C=C1)B(O)O)C | C7H9BO2
reactant | 2-bromofuran | BrC=1OC=CC1 | C4H3BrO
reactant | dimethoxyethane | 24 ml | C(OC)COC | C4H10O2
reactant | sodium carbonate | 1N, 12 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 177 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(4-tolyl)furan | 438 mg | C1(=CC=C(C=C1)C=1OC=CC1)C | C11H10O
